US07569600B2
1,3-Dimethyl-9,12-dioxa-1,3-diaza-dispiro[4.2.4.2]tetradecan-2-one (3.16 g, 13.2 mmol) was dissolved in 66 mL of THF and a portion of 130 mL of 3N HCl aqueous solution was added. The resulting mixture was stirred at 50° C. for two days. THF was removed under vacuum then the remaining mixture was extracted with two portions of dichloromethane. The organic portions were combined, dried over anhydrous Na2SO4 and concentrated. The crude was purified by silica gel column chromatography using a gradient from 2% CH2Cl2:MeOH to 10% CH2Cl2:MeOH as eluent to afford 1,3-dimethyl-1,3-diaza-spiro[4.5]decane-2,8-dione (1.7 g, 66%).

reactant | 1,3-Dimethyl-9,12-dioxa-1,3-diaza-dispiro[4.2.4.2]tetradecan-2-one | 13.2 mmol, 3.16 g | CN1C(N(CC12CCC1(OCCO1)CC2)C)=O | C12H20N2O3
reactant | HCl | 3N, 130 mL | Cl | ClH
solvent | THF | 66 mL | C1CCOC1 | C4H8O
product | 1,3-dimethyl-1,3-diaza-spiro[4.5]decane-2,8-dione | 1.7 g, 66% | CN1C(N(CC12CCC(CC2)=O)C)=O | C10H16N2O2
